US03989704
To a flask equipped with a stirrer, dropping funnel, condenser and gas inlet tube maintained under a nitrogen atmosphere there is added at room temperature 67.5 g. (0.5 mole) N-methyl benzamide and 1200 ml. dry tetrahydrofuran. The reaction flask is immersed in an ice bath and cooled to an internal temperature of 5° C. Stirring is initiated and 688 ml. of 1.6 M. n-butyl lithium (1.1 mole) in hexane is added dropwise over about 1 hour maintaining temperature below 8° C. The resulting dilithio salt is stirred at 5° C. for an additional hour and then a solution of 58.5 g. (0.55 mole) of benzaldehyde in 500 ml. tetrahydrofuran is added dropwise in about 1 hour maintaining the temperature between -10° to +10° C. The resulting mixture is stirred at 5° C. for 1 hour longer and 300 ml. of saturated ammonium chloride is added maintaining the temperature at about 10° C. The layers are separated and the organic phase dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to give α-hydroxy-N-methyl-α-phenyl-o-toluamide.

reactant | N-methyl benzamide | 0.5 mole | CNC(C1=CC=CC=C1)=O | C8H9NO
reactant | n-butyl lithium | 1.1 mole | C(CCC)[Li]
reactant | benzaldehyde | 0.55 mole | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-hydroxy-N-methyl-α-phenyl-o-toluamide | OC(C=1C(=CC=CC1)C(=O)NC)C1=CC=CC=C1 | C15H15NO2
